US06960601B2
To a cold solution of ethyl 2-oxoheptanoate (2 g, 11.62 mmol) in AcOH (20 mL), was added Br2 (596 μL, 11.62 mmol). The mixture was stirred 20 minutes at 0° C., then the mixture was allowed to warm to rt. After the mixture was stirred for 3 h, water and CH2Cl2 were added. The organic phase was separated, dried (MgSO4), and evaporated to give crude ethyl 3-bromo-2-oxoheptanoate as a dark oil; 1H NMR (400 MHz, CDCl3) δ 5.05-5.01 (m, 1 H), 4.45-4.20 (m, 2 H), 2.18-1.94 (m, 2 H), 1.74-1.57 (m, 2 H), 1.48-1.17 (m, 5 H), 0.95-0.82 (m, 3 H). This compound was used without purification for the preparation of compounds of the invention such as 1-(4-chlorophenyl)-2-(2-chlorophenyl)-N-(1-piperidinyl)-5-butyl-1H-imidazole-4-carboxamide hydrochloride (Table entry 20).

reactant | ethyl 2-oxoheptanoate | 11.62 mmol, 2 g | O=C(C(=O)OCC)CCCCC | C9H16O3
reactant | Br2 | 11.62 mmol, 596 μL | BrBr | Br2
reactant | water | O | H2O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | ethyl 3-bromo-2-oxoheptanoate | BrC(C(C(=O)OCC)=O)CCCC | C9H15BrO3
